US09107916B2
C. methyl 3-amino-4-ethylbenzoate
Charged methyl 4-ethyl-3-nitrobenzoate (5.0 g, 23.92 mmol), Pd/C (500 mg) and methanol (50 mL) to a flask, purged with hydrogen and stirred at r.t. overnight. It was then filtered and concentrated to give 4.0 g of the title compound (94%). 1H NMR (400 MHz, CDCl3): δ 1.26 (3H, t, J=7.6 Hz), 2.54 (2H, q, J=7.6 Hz), 3.73 (2H, s), 3.87 (3H, s), 7.12 (1H, d, J=8.0 Hz), 7.35 (1H, s), 7.41 (1H, d, J=7.6 Hz). [M+H] Calc'd for C10H13NO2, 180. Found, 180.

reactant | methyl 4-ethyl-3-nitrobenzoate | 23.92 mmol, 5.0 g | C(C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H11NO4
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | methyl 3-amino-4-ethylbenzoate | 4.0 g, 94% | NC=1C=C(C(=O)OC)C=CC1CC | C10H13NO2
